US04238506
4-[2-(5-Chloro-2methoxybenzamido)-ethyl]-cinnamic acid
31.75 g. 4-[2-(5-chloro-2-methoxybenzamido)-ethyl]-benzaldehyde (m.p. 115°-116° C.) and 1 ml. piperidine are added to 11.5 g. malonic acid in 100 ml. anhydrous pyridine. The reaction mixture is heated on a waterbath until the evolution of carbon dioxide is finished. After cooling, the reaction mixture is poured on to ice/concentrated hydrochloric acid and the precipitate formed is filtered off with suction, whereafter it is recrystallized from ethanol. There are obained 23.4 g. (about 65% of theory) 4-[2-(5-chloro-2-methoxybenzamido)-ethyl]-cinnamic acid; m.p. 197°-198° C.

reactant | 4-[2-(5-chloro-2-methoxybenzamido)-ethyl]-benzaldehyde | ClC=1C=CC(=C(C(=O)NCCC2=CC=C(C=O)C=C2)C1)OC | C17H16ClNO3
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | malonic acid | C(CC(=O)O)(=O)O | C3H4O4
reactant | carbon dioxide | C(=O)=O | CO2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-[2-(5-Chloro-2methoxybenzamido)-ethyl]-cinnamic acid | ClC=1C=CC(=C(C(=O)NCCC2=CC=C(C=CC(=O)O)C=C2)C1)OC | C19H18ClNO4
